US07132440B2
2-[4-(4-Chloro-benzoyl)-phenyl]-1H-benzoimidazole-5-sulfonic acid amide
The title compound was prepared as described in Example 1 substituting 3,4-diamino-benzenesulfonamide for 3,4-diamino-benzamide and 4-(4-chloro-benzoyl)-benzaldehyde for 4-(2-phenyl-[1,3]dioxolan-2-yl)-benzaldehyde in Step C (reaction mixture was heated to 60° C.). TLC (silica, 1% methanol saturated with ammonia/9% methanol/CH2Cl2): Rf=0.32. HPLC (Method A): Rt=8.03. MS (ESI+): mass calculated for C20H14ClN3O3S, 411.0; m/z found, 412.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6): δ 13.48 (br s, 1H), 8.31 (d, J=8.3 Hz, 2H), 8.16 (br s, 1H), 7.88 (d, J=8.3 Hz, 2H), 7.76 (br s, 1H), 7.74 (d, J=8.5 Hz, 2H), 7.73 (br s, 1H), 7.60 (d, J=8.5 Hz, 2H), 7.25 (br s, 2H).

reactant | 3,4-diamino-benzenesulfonamide | NC=1C=C(C=CC1N)S(=O)(=O)N | C6H9N3O2S
reactant | 3,4-diamino-benzamide | NC=1C=C(C(=O)N)C=CC1N | C7H9N3O
reactant | 4-(4-chloro-benzoyl)-benzaldehyde | ClC1=CC=C(C(=O)C2=CC=C(C=O)C=C2)C=C1 | C14H9ClO2
reactant | 4-(2-phenyl-[1,3]dioxolan-2-yl)-benzaldehyde | C1(=CC=CC=C1)C1(OCCO1)C1=CC=C(C=O)C=C1 | C16H14O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-[4-(4-Chloro-benzoyl)-phenyl]-1H-benzoimidazole-5-sulfonic acid amide | ClC1=CC=C(C(=O)C2=CC=C(C=C2)C2=NC3=C(N2)C=CC(=C3)S(=O)(=O)N)C=C1 | C20H14ClN3O3S
